US07241783B2
4-(4-carboxyphenyl)-1-[2-methoxy-3-(4-methylphenyl)benzylidene]-3-thiosemicarbazide.
A solution of 4-(4-carboxyphenyl)-3-thiosemicarbazide (11 mg, 0.05 mmol) and 2-methoxy-3-(4-methylphenyl)benzaldehyde (14 mg, 0.06 mmol) in dimethylformamide (1 mL) was shaken with 4 Å molecular sieves for 40 h. PS-TsNHNH2 resin (17 mg, 0.05 mmol) was added and shaking continued for 24 h, then the resin was filtered off. The solvent was removed under vacuum and the residue chromatographed by reverse phase HPLC (CombiPrep ODS-A, 10–90% acetonitrile/water+0.1% trifluoroacetic acid) to give the title compound (3 mg, 14%) as a solid. MS (ES−) m/e 418 [M−H]−.

reactant | 4-(4-carboxyphenyl)-3-thiosemicarbazide | 0.05 mmol, 11 mg | C(=O)(O)C1=CC=C(C=C1)NC(NN)=S | C8H9N3O2S
reactant | 2-methoxy-3-(4-methylphenyl)benzaldehyde | 0.06 mmol, 14 mg | COC1=C(C=O)C=CC=C1C1=CC=C(C=C1)C | C15H14O2
reactant | TsNHNH2 | 0.05 mmol, 17 mg | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(4-carboxyphenyl)-1-[2-methoxy-3-(4-methylphenyl)benzylidene]-3-thiosemicarbazide | 3 mg, 14% | C(=O)(O)C1=CC=C(C=C1)NC(NN=CC1=C(C(=CC=C1)C1=CC=C(C=C1)C)OC)=S | C23H21N3O3S
